US05885997
4-[2-[4-Oxo-3,4-dihydro-3-quinazolinyl]ethoxy]benzaldehyde
The title compound (1.5 g, 73%) was prepared from 4-oxo-3,4-dihydroquinazoline (1.03 g, 7.05 mmol) and 4-[2-bromoethoxy]benzaldehyde (1.77 g, 7.7 mmol) in the presence of K2CO3 (2.0 g, 14.5 mmol) as base, by a similar procedure to that described in preparation 1.

reactant | 4-oxo-3,4-dihydroquinazoline | 7.05 mmol, 1.03 g | O=C1NC=NC2=CC=CC=C12 | C8H6N2O
reactant | 4-[2-bromoethoxy]benzaldehyde | 7.7 mmol, 1.77 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | K2CO3 | 14.5 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-[4-Oxo-3,4-dihydro-3-quinazolinyl]ethoxy]benzaldehyde | 1.5 g, 73% | O=C1N(C=NC2=CC=CC=C12)CCOC1=CC=C(C=O)C=C1 | C17H14N2O3
